US05866589
1-tert-Butyloxycarbonyl-4-[N-methyl-N-(3-cyclopropylmethylamino-2-pyridinyl)amino]piperidine
1-tert-Butyloxycarbonyl-4-[N-methyl-N-(3-amino-2-pyridinyl)amino]piperidine (1.64 g, 5.37 mmol) is dissolved in methanol (0.2M) and cooled to 0°. Cyclopropylcarboxaldehyde (0.40 ml, 5.37 mmol) is added. After stirring 5 min, sodium cyanoborohydride (337 mg, 5.37 mmol) is added. The reaction is refluxed one hour, then stirred overnight at 20°-25°. Acetic acid (53.7 mmol) is added and the reaction refluxed 3 hr. After cooling to 20°-25°, cyclopropylcarboxaldehyde (820 mg, 2.68 mmol) and sodium cyanoborohydride (168 mg 2.68 mmol) are added and the reaction stirred 16 hr at 20°-25°. The mixture is diluted with water, adjusted to pH 9 with sodium hydroxide (1N) and extracted with chloroform. The extract is filtered and concentrated. The concentrate is chromatographed (silica gel; ethyl acetate/hexane (20/80) to give the title compound; NMR (300 MHz, CD3OD) 7.39, 6.79, 3.79, 3.07, 2.80, 2.63, 2.44, 1.52, 1.33, 1.27, 0.93, 0.35 and 0.05δ.

reactant | 1-tert-Butyloxycarbonyl-4-[N-methyl-N-(3-amino-2-pyridinyl)amino]piperidine | 5.37 mmol, 1.64 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C1=NC=CC=C1N)C | C16H26N4O2
reactant | Cyclopropylcarboxaldehyde | 5.37 mmol, 0.40 ml | C1CC1C(C#N)O | C5H7NO
reactant | sodium cyanoborohydride | 5.37 mmol, 337 mg | C(#N)[BH3-].[Na+]
reactant | Acetic acid | 53.7 mmol | C(C)(=O)O | C2H4O2
reactant | cyclopropylcarboxaldehyde | 2.68 mmol, 820 mg | C1CC1C(C#N)O | C5H7NO
reactant | sodium cyanoborohydride | 2.68 mmol, 168 mg | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | methanol | 0.2M | CO | CH4O
solvent | water | O | H2O
product | 1-tert-Butyloxycarbonyl-4-[N-methyl-N-(3-cyclopropylmethylamino-2-pyridinyl)amino]piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C1=NC=CC=C1NCC1CC1)C | C20H32N4O2
